US05272270
rel-(4R,5s)-4,5-bis(3'-Benzyloxy-4'-methoxyphenyl)oxazolidine-2-one
Mixture: 1.0 g (2.06 mmol) of rel-(1S,2R)-1,2-bis(3'-benzyloxy-4'-methoxyphenyl)-2-aminoethanol, 334 mg (2.05 mmol) of carbonyldiimidazole, 20 ml of toluene.

reactant | rel-(1S,2R)-1,2-bis(3'-benzyloxy-4'-methoxyphenyl)-2-aminoethanol | 2.06 mmol, 1.0 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)[C@@H]([C@H](N)C1=CC(=C(C=C1)OC)OCC1=CC=CC=C1)O | C30H31NO5
reactant | carbonyldiimidazole | 2.05 mmol, 334 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | rel-(4R,5s)-4,5-bis(3'-Benzyloxy-4'-methoxyphenyl)oxazolidine-2-one | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)[C@H]1NC(O[C@H]1C1=CC(=C(C=C1)OC)OCC1=CC=CC=C1)=O | C31H29NO6
